US05840732
Synthesis of 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1-oxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione hydrochloride
To a solution of 166 mg (0.36 mmol) of 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1-oxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione in 5 ml of methanol, 8 μl of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 132 mg (72.9%, light yellow foamy substance) of the desired product.

reactant | 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1-oxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.36 mmol, 166 mg | N=1C=CN2C1C=CC=C2SCCCCN2C(N1C(S(CCC1)=O)=C(C2=O)C2=CC=CC=C2)=O | C24H24N4O3S2
reactant | hydrochloric acid | 8 μl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1-oxo-9-phenyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione hydrochloride | Cl.N=1C=CN2C1C=CC=C2SCCCCN2C(N1C(S(CCC1)=O)=C(C2=O)C2=CC=CC=C2)=O | InChI=1S/C24H24N4O3S2.ClH/c29-22-21(18-8-2-1-3-9-18)23-28(14-7-17-33(23)31)24(30)27(22)13-4-5-16-32-20-11-6-10-19-25-12-15-26(19)20;/h1-3,6,8-12,15H,4-5,7,13-14,16-17H2;1H
